US04183868
Preparation of 2,6-dimethyl-N-(2'-methoxyethyl)-aniline
In a quartz tube 30 cm in length and 0.5 cm in diameter, which is arranged vertically and surrounded by a heating jacket, 2 ml of this catalyst are activated at 130° C., in the manner described in Example 2, and then heated to 275° C. under hydrogen. At 275° C., 1.21 g of 2,6-dimethylaniline, 1.52 g of 2-methoxyethanol and 0.67 N1 of hydrogen are then passed, per hour, under normal pressure, through the reactor from top to bottom. The mixture which issues from the reactor is condensed and worked up by distillation.

reactant | 2,6-dimethylaniline | 1.21 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | hydrogen | [H][H] | H2
reactant | 2-methoxyethanol | 1.52 g | COCCO | C3H8O2
product | 2,6-dimethyl-N-(2'-methoxyethyl)-aniline | CC1=C(NCCOC)C(=CC=C1)C | C11H17NO
